US07732626B2
[(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid
To a solution of methyl[(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate (0.418 g, 0.740 mmol) in a mixed solvent of methanol (4 mL) and tetrahydrofuran (8 mL) was added 2 M aqueous sodium hydroxide solution (2 mL, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was diluted with water, acidified with 1 M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=50:50-100:0), and the obtained crystals were recrystallized from hexane-ethyl acetate to give the title compound (0.248 g, yield 62%) as colorless crystals.

reactant | methyl[(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 0.740 mmol, 0.418 g | COC(C[C@@H]1COC2=C1C=CC(=C2)OCC=2C=C(C=CC2)C2=C(C(=C(C=C2C)OCCCS(=O)(=O)C)F)C)=O | C30H33FO7S
reactant | methanol | 4 mL | CO | CH4O
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | [(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid | 0.248 g, yield 62% | FC=1C(=C(C(=CC1OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)COC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1)C | C29H31FO7S
